US04892875
4-Benzhydryl-1-piperazinepropanol was reacted with diketene in the same manner as Reference Example 2-(1) to give 3-(4-benzhydryl-1-piperazinyl)propyl acetoacetate as an oil. Yield 96.3%. NMR(CDCl3)δ: 1.62-1.98(2H, m), 3.40(2H, s), 4.16(2H, t, J=6.8), 4.20(1H, s), 7.10-7.49(10H, m).

reactant | 4-Benzhydryl-1-piperazinepropanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCO | C20H26N2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 3-(4-benzhydryl-1-piperazinyl)propyl acetoacetate | Yield 96.3% | C(CC(=O)C)(=O)OCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O3
